US06194406B1
4-(1-(2-(1H-Imidazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 1-(t-butoxycarbonyl)-4-(1-(2-(1H-imidazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.22 g, 0.54 mmol), 57% hydriodic acid (0.25 mL, 1.13 mmol), methanol (10 mL) and heat to reflux. After 20 hours, cool the reaction mixture and evaporate in vacuo to give a residue. Triturate the residue with diethyl ether to give a solid. Repeatedly, decant and add diethyl ether before collecting the solid by filtration, rinse with diethyl ether, and dry in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-(1H-imidazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.54 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1C=NC=C1)C=CC=C2 | C22H30N6O2
reactant | hydriodic acid | 1.13 mmol, 0.25 mL | I | HI
solvent | methanol | 10 mL | CO | CH4O
product | 4-(1-(2-(1H-Imidazol-1-yl)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.N1(C=NC=C1)CCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H22N6.HI/c1-2-5-16-15(4-1)20-17(22-9-3-6-18-8-11-22)23(16)13-12-21-10-7-19-14-21;/h1-2,4-5,7,10,14,18H,3,6,8-9,11-13H2;1H
